* Z:\home\ostoja\Elektronika\LNWB_BJT\301_servo.asc
V1 12V 0 12
V2 -15V 0 -15
V7 N006 0 SINE(0 0.02m {f})
R10 5V N003 {Rc}
R11 5V N005 {Rc}
C4 N008 N007 100n
R14 N007 N006 50
R15 N008 0 50
R24 20x_OUTPUT N009 1k
R25 N009 0 10
C11 20x_OUTPUT N009 5p
Q5 N003 N008 N011 0 2N4401
Q6 N005 N009 N011 0 2N4401
V3 -5V 0 -5
V4 5V 0 5
D1 N013 0 1N4148
D2 N008 N013 1N4148
D3 N012 N008 1N4148
D4 0 N012 1N4148
B1 N014 0 V=V(20x_OUTPUT)
C3 out_1 N014 10000
R3 out_1 0 1m
D7 N021 -5V 1N4148
D8 N019 N021 1N4148
R2 12V N019 10k
XU1 N005 N003 5V -5V 20x_OUTPUT AD8009an
B2 N010 0 V=V(out_1)
D5 N010 max_1 MyIdealDiode
C1 max_1 0 1µ
D6 min_1 N010 MyIdealDiode
C2 min_1 0 1µ
B3 N016 0 V=V(max_1) - V(min_1)
XU2 N017 N020 N018 LM7805
XU3 N022 0 N023 LM7905
V5 N017 N022 15
R1 N018 0 100
R5 0 N023 100
R6 N020 0 1k
XU4 N004 N002 5V -5V base TL072
R7 N002 N003 100k
R8 N002 N005 100k
C5 N002 base 51p
R9 N004 5V 100k
R12 N004 0 100k
Q1 -5V N015 N011 0 2N2905
R13 N015 -5V 300k
.model D D
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\ostoja\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib Z:\home\ostoja\Elektronika\LNWBA\LSK389B.lib
.tran 0 200u 0 10n
.lib Z:\home\ostoja\Elektronika\LNWBA\lm7171.lib
.lib Z:\home\ostoja\Elektronika\LNWBA\LM6171A.MOD
.param Trim = 100
* 40x
* 0.5x
;.step param f list 100k 1Meg 5Meg 9Meg 13Meg 17Meg 21Meg 25Meg
.ic V(m1) = 0
.model MyIdealDiode D(Ron=1 Roff=100Meg Vfwd=0 Vrev=20)
.param Rc = 2k2
.param f = 20Meg
* pot
.lib AD8009an.sub
.lib regulators.lib
.lib TL072.cir
.backanno
.end
